* Z:\mnt\design.r\spice\examples\1816.asc
V1 +V 0 5
V2 -V 0 -5
R1 N003 N001 1K
R2 N001 0 10K
R3 OUT N002 10K
R4 N002 N001 220
R5 N002 N003 1K
V3 IN- IN+ SINE(0 10m 10K)
V4 IN+ 0 SINE(0 1 1K)
XU1 IN- N001 N003 +V -V LT1815
XU2 IN+ N002 OUT +V -V LT1815
.tran 3m
* Two Op Amp Instrumentation Amplifier
.lib LTC2.LIB
.backanno
.end
